US08222416B2
To a solution of 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-4-yl)-ethanone (0.6 g, 1.56 mmol) in dry tetrahydrofuran (40 mL) at −78° C. was added lithium bis(trimethylsilyl)amide (1.0 M in tetrahydrofuran, 2.34 mL, 2.34 mmol) dropwise. After stirring at −78° C. for 1 h, a solution of p-toluenesulfonic anhydride (0.76 g, 2.34 mmol) in tetrahydrofuran (20 mL) was added dropwise. The resulting solution was kept at −78° C. for another 1 h. The reaction was quenched with water, extracted with ethyl acetate (300 mL), washed with brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash column chromatography (QingDao silica gel, 200-300 mesh, 50% ethyl acetate/hexanes) afforded toluene-4-sulfonic acid 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-4-yl)-vinyl ester (0.45 g, 53%) as a white solid: LC/MS m/e calcd for C27H26N2O6S2 [M+H]+ 539.65, observed: 539.3.

reactant | 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-4-yl)-ethanone | 1.56 mmol, 0.6 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(CC2CCOCC2)=O | C20H20N2O4S
reactant | lithium bis(trimethylsilyl)amide | 2.34 mmol, 1.0 M, 2.34 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-toluenesulfonic anhydride | 2.34 mmol, 0.76 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | toluene-4-sulfonic acid 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-4-yl)-vinyl ester | 0.45 g, 53% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(=CC2CCOCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C27H26N2O6S2
